US08541457B2
Synthesis of 2-Benzamido-N,4-dibenzylthiazole-5-carboxamide
Following the procedure as described in Example 16, making variations only as required to use benzoyl chloride in place of hydrocinnamoyl chloride to react with 2-amino-N,4-dibenzylthiazole-5-carboxamide, the title compound was obtained in 54% yield; 1H NMR (CDCl3, 400 MHz) δ 7.92 (d, J=7.1 Hz, 2H), 7.63 (t, J=7.6 Hz, 1H), 7.52 (t, J=8.1 Hz, 2H), 7.40-7.15 (m, 10H), 4.58 (d, J=5.6 Hz, 2H), 4.41 (s, 2H); MS (ES+) m/z 428 (M+1).

reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-amino-N,4-dibenzylthiazole-5-carboxamide | NC=1SC(=C(N1)CC1=CC=CC=C1)C(=O)NCC1=CC=CC=C1 | C18H17N3OS
product | 2-Benzamido-N,4-dibenzylthiazole-5-carboxamide | 54% yield | C(C1=CC=CC=C1)(=O)NC=1SC(=C(N1)CC1=CC=CC=C1)C(=O)NCC1=CC=CC=C1 | C25H21N3O2S
